* H:\02. Dokumente\Technical Week 2018\FAE-Simulation-file\03. Time domain simulation\Transient_simulation_Transmission_line.asc
C2 N008 0 1000p
R3 N003 N008 75
C3 N009 0 1000p
R4 N004 N009 75
C4 N005 0 0.1µ
R1 Signal_TD+ N002 50
R2 N002 Signal_TD- 50
R5 TD+ N005 50
R6 N005 TD- 50
C1 N002 0 0.1µ
V1 Signal_TD+ N006 PWL file=Signal_1.txt
O1 TX+ TX- N001 N007 Cat5e
V3 N006 Signal_TD- PWL file=Signal_1.txt
XU1 Signal_TD+ N002 Signal_TD- TX- N003 TX+ 749010310
XU2 N001 N004 N007 TD- N005 TD+ 749010310
.tran 0 20u 0 0.5µ
* LAN Cable
* LAN Transformer 1
* LAN Transformer 2
* Signal Input
* Signal Output
.model Cat5e LTRA(len={length} R=0.05 L=525n C=52p)
.param length=1
.lib WE-LANAQ.lib
.backanno
.end
